US06348474B1
2-Chloro-4-(n-pentyl)benzyl alcohol
A solution (1.0 M, 2.4 ml) of tetrabutylammonium fluoride/tetrahydrofuran was added to a solution of 1-((tert-butyldiphenylsilyloxy)methyl)-2-chloro-4-(n-pentyl)benzene (890 mg) in tetrahydrofuran (4.5 ml) under ice-cooling, and the mixture was stirred for 2 hr. Water was added to the reaction mixture and the resulting product was extracted three times with ethyl acetate. The organic layers were combined and washed successively with diluted hydrochloric acid, a saturated aqueous solution of sodium hydrogencarbonate and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=7/1) to give the objective compound (345 mg) as a colorless oil.

reactant | tetrabutylammonium fluoride tetrahydrofuran | 1.0 M, 2.4 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.O1CCCC1
reactant | 1-((tert-butyldiphenylsilyloxy)methyl)-2-chloro-4-(n-pentyl)benzene | 890 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C=C(C=C1)CCCCC)Cl | C28H35ClOSi
reactant | Water | O | H2O
solvent | tetrahydrofuran | 4.5 ml | O1CCCC1 | C4H8O
product | 2-Chloro-4-(n-pentyl)benzyl alcohol | 345 mg | ClC1=C(CO)C=CC(=C1)CCCCC | C12H17ClO
